US07262185B2
5-hydroxymethyl-1-(2-methoxyethyl)imidazole (2.8 g) was added to thionyl chloride (8.4 ml), and the mixture was stirred for 1 hour at 80° C. The solvent was removed under reduced pressure, and the obtained residue was washed with ethyl acetate, to give 5-chloromethyl-1-(2-methoxyethyl)imidazole hydrochloride (3.2 g).

reactant | 5-hydroxymethyl-1-(2-methoxyethyl)imidazole | 2.8 g | OCC1=CN=CN1CCOC | C7H12N2O2
reactant | thionyl chloride | 8.4 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-chloromethyl-1-(2-methoxyethyl)imidazole hydrochloride | 3.2 g | Cl.ClCC1=CN=CN1CCOC | InChI=1S/C7H11ClN2O.ClH/c1-11-3-2-10-6-9-5-7(10)4-8;/h5-6H,2-4H2,1H3;1H
